* U:\S6\App1\Dev\LTspice\Gummeling.asc
V1 VPP 0 10
V2 0 VMM 10
Q11 N001 N001 N002 0 2N2222
VGummel N001 0 0
R1 N002 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\nikb2701\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib ALD1115_UdeS.lib
.lib 2N3055A_UdeS.lib
;.op
;.tran 2m
;.ac dec 100 1 1meg
;.dc VCE 0 20 0.02 VBE 1 1.5 0.02
.dc VGummel 0.1 2 0.1
.model L1IZ0850 D( mfg=S6eAPP1 type=LED Is=4.1813071601760576e-19 Rs=0.25 N=3.4 Vj=1.2716439573697156 Cjo=7.576811894451617e-10)
.backanno
.end
